US05463063
To a stirred solution of histidine (3.17 g, 20.0 mmol) and sodium carbonate (2.23 g, 21 mmol) in 50 mL of water is added N-carboethoxyphthalimide (4.52 g, 20.0 mmol). After 1.5 hour, the reaction slurry is filtered. The filtrate is stirred and the pH adjusted to 1-2 with 4N hydrochloric acid. The resulting slurry is filtered and the solid washed with water and dried in vacuo (60 C, <1 mm) to afford 3.65 g (64%) of 2-phthalimido-3-(imidazol-4-yl)propionic acid as a white powder: mp 280°-285° C.; 1H NMR (dmso-d6, 250 M Hz) δ12.5 (br s, 1H), 7.90-7.60 (m, 6H), 6.80(s, 1H), 4.94 (t, 1H, J=7.8), 3.36 (d, 2H, J=7.8); 13C NMR (dmso-d6) δ 170.1, 167.1, 134.8, 134.6, 133.2, 131.1, 123.2, 116.3, 52.4, 25.8; Anal. Calculated for C14H11N3O4. Theoretical: C, 58.95; H, 3.89; N, 14.73. Found: C, 58.80; H, 3.88; N, 14.66.

reactant | histidine | 20.0 mmol, 3.17 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | sodium carbonate | 21 mmol, 2.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 20.0 mmol, 4.52 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 50 mL | O | H2O
product | 2-phthalimido-3-(imidazol-4-yl)propionic acid | 3.65 g, 64% | C1(C=2C(C(N1C(C(=O)O)CC=1N=CNC1)=O)=CC=CC2)=O | C14H11N3O4
